US07772245B2
To a solution of 1-(4-hydrazinobenzyl)-4-methylpiperazine (3.4 g, 13.25 mmol) in ethanol (50 mL) were added piperidone. HCl (2.51 g, 18.55 mmol). The reaction temperature was raised to 90° C. and continued stirring for 2 hrs. The progress of the reaction was monitored by TLC and upon completion of the reaction the mixture was cooled to rt and HCl gas was bubbled through the reaction mixture at 0° C. After the reaction mixture was saturated with HCl, the temperature was raised to 90° C. again and continued stirring for 2 hrs. The ethanolic HCl was removed under reduced pressure and the pH of the reaction mixture was adjusted to 12.0 with 10% NaOH solution. The mixture was partitioned between 20% MeOH:DCM and water (35 mL) and the organic layer was separated, dried over Na2SO4 filtered and the solvent was removed under reduced pressure to give crude residue. Washing with ether gave 8-[(4-methylpiperazin-1-yl)methyl]-2,3,4,5-tetrahydro-1H-pyrido[4,3-b]indole (1 g). 1H NMR (CD3OD, 200 MHz) δ: 7.31 (1H, s), 7.27 (1H, d, J=8.6 Hz), 7.06 (1H, d, J=8.6 Hz), 4.01 (2H, s), 3.60 (2H, s), 3.21 (8H, bm), 2.86 (4H, m), 2.28 (3H, s); m/e=285 (M+1).

reactant | 1-(4-hydrazinobenzyl)-4-methylpiperazine | 13.25 mmol, 3.4 g | N(N)C1=CC=C(CN2CCN(CC2)C)C=C1 | C12H20N4
reactant | ethanol | 50 mL | C(C)O | C2H6O
product | 8-[(4-methylpiperazin-1-yl)methyl]-2,3,4,5-tetrahydro-1H-pyrido[4,3-b]indole | 1 g | CN1CCN(CC1)CC1=CC=2C3=C(NC2C=C1)CCNC3 | C17H24N4
